US04933355
Ethyl 2-benzylaminothiazole-4-carboxylate
The reaction described in Preparation 42 was repeated, but using 5.02 g of benzylthiourea, 5.87 g of ethyl bromopyruvate and 50 ml of ethanol, giving the title compound as pale yellow needles.

reactant | benzylthiourea | 5.02 g | C(C1=CC=CC=C1)NC(=S)N | C8H10N2S
reactant | ethyl bromopyruvate | 5.87 g | BrCC(C(=O)OCC)=O | C5H7BrO3
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | Ethyl 2-benzylaminothiazole-4-carboxylate | C(C1=CC=CC=C1)NC=1SC=C(N1)C(=O)OCC | C13H14N2O2S
